US04230719
To 19.5 ml of 1 N sodium hydroxide solution was added 4.9 g (0.02 mole) of 2-[4-(3-methyl-2-thienyl)phenyl]propionic acid. After stirring for 30 minutes, the insoluble substance was removed by extraction with 20 ml of chloroform. The aqueous layer was concentrated under reduced pressure with heating. The residue was recrystallized from a toluene-water-dioxane mixture to obtain dihydrate of sodium 2-[4-(3-methyl-2-thienyl)phenyl]propionate having melting point of 206°-207° C.

reactant | sodium hydroxide | 1 N, 19.5 ml | [OH-].[Na+]
reactant | 2-[4-(3-methyl-2-thienyl)phenyl]propionic acid | 0.02 mole, 4.9 g | CC1=C(SC=C1)C1=CC=C(C=C1)C(C(=O)O)C | C14H14O2S
product | sodium 2-[4-(3-methyl-2-thienyl)phenyl]propionate | CC1=C(SC=C1)C1=CC=C(C=C1)C(C(=O)[O-])C.[Na+] | InChI=1S/C14H14O2S.Na/c1-9-7-8-17-13(9)12-5-3-11(4-6-12)10(2)14(15)16;/h3-8,10H,1-2H3,(H,15,16);/q;+1/p-1
